US05554607
3-(2,6-Dichlorophenyl)-1-methyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 1 using 14.28 g of 2,6-dichlorophenyl-isothiocyanate, 10.75 g of sarcosine ethyl ester hydrochloride, 14.5 g of triethyl amine, and 200 mL of chloroform. Crystallization from diethyl ether afforded the title compound (16.9 g) as a light peach solid, m.p. 207°-209° C. Anal. Calcd. for C10H8C12N2O S: C, 43.65; H, 2.93; N, 10.18. Found: C, 43.57; H, 2.61; N, 10.14. Mass spectrum (El, M.+) m/z 274.

reactant | 2,6-dichlorophenyl-isothiocyanate | 14.28 g | ClC1=C(C(=CC=C1)Cl)N=C=S | C7H3Cl2NS
reactant | sarcosine ethyl ester hydrochloride | 10.75 g | Cl.C(C)OC(CNC)=O
reactant | triethyl amine | 14.5 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(2,6-Dichlorophenyl)-1-methyl-2-thioxo-imidazolidin-4-one | 16.9 g | ClC1=C(C(=CC=C1)Cl)N1C(N(CC1=O)C)=S | C10H8Cl2N2OS
